US06001839
A mixture of 7-isopropyl-5-[4-(2-nitrophenoxy)phenyl]-7H-pyrrolo[2,3-d]-pyrimidin-4-ylamine (0.15 g), ammonium formate (3 equivalents), 10% palladium on charcoal (15 mg) and ethanol (5 ml) was boiled under reflux under nitrogen for 2 hours. Further ammonium formate (100 mg) was added after one hour. The mixture was cooled and filtered through silica. The filter bed was washed with industrial methylated spirit (2×10 ml). The filtrate was evaporated and the residue was extracted with ethyl acetate. The ethyl acetate was removed under reduced pressure to give a residue which was purified by flash column chromatography on silica using ethyl acetate as the mobile phase to give 5-[4-(2-aminophenoxy)phenyl]-7-isopropyl-7H-pyrrolo[2,3-d]-pyrimidin-4-ylamine. The structure was confirmed by 1H nmr.

reactant | 7-isopropyl-5-[4-(2-nitrophenoxy)phenyl]-7H-pyrrolo[2,3-d]-pyrimidin-4-ylamine | 0.15 g | C(C)(C)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=C(C=CC=C2)[N+](=O)[O-] | C21H19N5O3
reactant | ammonium formate | 3 equivalents | C(=O)[O-].[NH4+]
reactant | ammonium formate | 100 mg | C(=O)[O-].[NH4+]
catalyst | palladium on charcoal | 15 mg | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-[4-(2-aminophenoxy)phenyl]-7-isopropyl-7H-pyrrolo[2,3-d]-pyrimidin-4-ylamine | NC1=C(OC2=CC=C(C=C2)C2=CN(C=3N=CN=C(C32)N)C(C)C)C=CC=C1 | C21H21N5O
